US09340538B2
Step B: 3-(4-((6-(2,4-dichlorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-4-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholin-2-yl)propanoic acid
Ethyl 6-(bromomethyl)-4-(2,4-dichlorophenyl)-2-(thiazol-4-yl)-1,4-dihydropyrimidine-5-carboxylate (0.73 g, 1.53 mmol) was reacted with 3-(morpholin-2-yl)propanoic acid hydrochloride (0.3 g, 1.53 mmol) according to the procedure as described in Example 28 to give the title compound as a yellow solid (0.38 g, 45%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 6-(bromomethyl)-4-(2,4-dichlorophenyl)-2-(thiazol-4-yl)-1,4-dihydropyrimidine-5-carboxylate | 1.53 mmol, 0.73 g | BrCC1=C(C(N=C(N1)C=1N=CSC1)C1=C(C=C(C=C1)Cl)Cl)C(=O)OCC | C17H14BrCl2N3O2S
reactant | 3-(morpholin-2-yl)propanoic acid hydrochloride | 1.53 mmol, 0.3 g | Cl.N1CC(OCC1)CCC(=O)O
product | 3-(4-((6-(2,4-dichlorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-4-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholin-2-yl)propanoic acid | 0.38 g, 45% | ClC1=C(C=CC(=C1)Cl)C1C(=C(NC(=N1)C=1N=CSC1)CN1CC(OCC1)CCC(=O)O)C(=O)OCC | C24H26Cl2N4O5S
